* NGSPICE file created from nand_tb.ext - technology: sky130A

.subckt nand_tb out DVDD DGND A B B1
X0 a_n1952_85# B DVDD DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.126 ps=1.44 w=0.42 l=0.15
X1 DVDD B a_n1952_85# DVDD sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=0.92 w=0.42 l=0.15
X2 DVDD A a_n1952_85# DVDD sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=0.92 w=0.42 l=0.15
X3 DVDD B a_n1952_85# DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X4 a_n1952_85# A DVDD DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.126 ps=1.44 w=0.42 l=0.15
X5 a_n1200_125# A a_n1952_85# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X6 DVDD A a_n1952_85# DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X7 DGND B a_n1200_125# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X8 a_n1952_85# A a_n1200_125# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X9 a_n1952_85# A DVDD DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X10 DGND B a_n1200_125# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.126 ps=1.44 w=0.42 l=0.15
X11 a_n1200_125# B DGND DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X12 a_n1200_125# A a_n1952_85# DGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=0.92 w=0.42 l=0.15
X13 a_n1200_125# B DGND DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X14 a_n1952_85# A a_n1200_125# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X15 DVDD B1 a_n2549_433# DVDD sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=0.92 w=0.42 l=0.15
X16 a_n2549_433# B1 DVDD DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.126 ps=1.44 w=0.42 l=0.15
X17 DVDD B1 a_n2549_433# DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X18 a_n2549_433# B1 DGND DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X19 a_n2549_433# B1 DVDD DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X20 DGND B1 a_n2532_125# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.126 ps=1.44 w=0.42 l=0.15
X21 a_n2532_125# B1 DGND DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X22 DGND B1 a_n2532_125# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X23 a_n1922_125# a_n1952_85# a_n2549_433# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X24 DVDD a_n1952_85# a_n2549_433# DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X25 a_n2549_433# a_n1952_85# a_n1922_125# DGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=0.92 w=0.42 l=0.15
X26 a_n2549_433# a_n1952_85# DVDD DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X27 a_n1922_125# a_n1952_85# a_n2549_433# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X28 DVDD a_n1952_85# a_n2549_433# DVDD sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=0.92 w=0.42 l=0.15
X29 a_n2549_433# a_n1952_85# a_n1922_125# DGND sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X30 a_n2549_433# a_n1952_85# DVDD DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.126 ps=1.44 w=0.42 l=0.15
X31 a_n1952_85# B DVDD DVDD sky130_fd_pr__pfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
.ends

